US07196104B2
Preparation CA: 6-(2,6-Dimethyl-piperidin-1-ylmethyl)-pyridin-2-ylamine
HCl (1.25 mL, 1.25 mmol) in MeOH (15 mL) was added to [6-(2,6-dimethyl-piperidin-1-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (200 mg, 0.63 mmol) followed by heating at 40° C. for 18 h. The resulting mixture was cooled to RT and basified to pH 9 with 2 N NaOH. The mixture was extracted with CHCl3 (3×20 mL). The combined organic layers was dried over MgSO4 and concentrated in vacuo to give a yellow oil. MS m/z: 220.2 (M+H). Calc'd. for C13H21N3-219.17.

reactant | HCl | 1.25 mmol, 1.25 mL | Cl | ClH
reactant | [6-(2,6-dimethyl-piperidin-1-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.63 mmol, 200 mg | C(C)(C)(C)OC(NC1=NC(=CC=C1)CN1C(CCCC1C)C)=O | C18H29N3O2
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 6-(2,6-Dimethyl-piperidin-1-ylmethyl)-pyridin-2-ylamine | CC1N(C(CCC1)C)CC1=CC=CC(=N1)N | C13H21N3
